US07745641B2
In a similar manner to Step 1 of Example 299, 4-hydroxy-7-(1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl)isoindolinone (150 mg, 0.240-mmol) was suspended in dichloromethane (6.0 mL), and the suspension was treated with triethylamine (0.167 mL, 1.20 mmol) and trifluoromethanesulfonyl chloride (0.046 mL, 0.43 mmol) under ice-cooling, followed by purification by preparative thin-layer chromatography (chloroform/methanol=13/1) to obtain 4-trifluoromethanesulfonyloxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (139 mg, yield 77%).

reactant | 4-hydroxy-7-(1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl)isoindolinone | 0.240-mmol, 150 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O | C34H48N4O5Si
reactant | triethylamine | 1.20 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 0.43 mmol, 0.046 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | dichloromethane | 6.0 mL | ClCCl | CH2Cl2
product | 4-trifluoromethanesulfonyloxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 139 mg, yield 77% | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O)(F)F | C35H47F3N4O7SSi
